US07390830B1
Synthesis of 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(3,4-diethoxybenzyl)-piperidine (Compd. No. 2065)
NaBH3CN (0.25 mmol) was added to a mixture of 4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine (0.050 mmol) with 3,4-diethoxybenzaldehyde (0.15 mol), methanol (1.2 mL) and acetic acid (0.050 mL), and the obtained mixture was stirred at 50° C. overnight, cooled to room temperature, loaded onto a Varian™ SCX column and washed with methanol (5 mL×2). The obtained product was eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated. Dichloromethane (2 mL) and phenyl isocyanate (0.10 mL) were added to the obtained residue, and the resulting mixture was stirred at room temperature for 1 hour, loaded onto a Varian™ SCX column and washed with methanol (5 mL). The obtained product was eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated. The residue was dissolved in methanol (0.25 mL); and a 4 M dioxane solution of HCl (0.125 mL) was added to the resulting solution. The obtained mixture was stirred at room temperature overnight and concentrated. The resulting residue was dissolved in methanol, loaded onto a Varian™ SCX column and washed with methanol (5 mL×2). The obtained crude product was eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated to thereby afford 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(3,4-diethoxybenzyl)piperidine (Compd. No. 2065) (21.2 mg, 84%). The purity was determined by RPLC/MS (97%). ESI/MS m/e 505.2 (M++H, C26H34F2N4O4).

reactant | NaBH3CN | 0.25 mmol | [BH3-]C#N.[Na+]
reactant | 4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 3,4-diethoxybenzaldehyde | 0.15 mol | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
reactant | methanol | 1.2 mL | CO | CH4O
solvent | acetic acid | 0.050 mL | C(C)(=O)O | C2H4O2
product | 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(3,4-diethoxybenzyl)-piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)OCC)OCC)C=C(C(=C1)F)F | C26H34F2N4O4
